US05179100
2,11-Diamino-4,5-dihydro-2H-pyrazolo[3,4-a]acridine
To a suspension of 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine (40.0 g) in an aqueous sodium hydroxide solution (37.1 g in 561 ml of water) at 50° C. was added ethanol (1550 ml). The resulting solution was heated to 55° C. and solid hydroxylamine-o-sulfonic acid (51.6 g) was added in portions over 15 minutes. The reaction was stirred for a half hour without heat, the resulting solid was filtered, washed with water, boiled in methanol (1500 ml), filtered hot to remove inorganics, concentrated, and triturated with diethyl ether to yield 5.79 g of a product containing approximately 20% of the starting material which was inseparable by chromatography.

reactant | 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine | 40.0 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)NN=C3 | C14H12N4
reactant | sodium hydroxide | 561 ml, 37.1 g | [OH-].[Na+]
reactant | hydroxylamine-o-sulfonic acid | 51.6 g | NOS(=O)(=O)O | H3NO4S
solvent | ethanol | 1550 ml | C(C)O | C2H6O
product | 2,11-Diamino-4,5-dihydro-2H-pyrazolo[3,4-a]acridine | 5.79 g | NN1N=C2C(CCC3=NC4=CC=CC=C4C(=C23)N)=C1 | C14H13N5
